2195-04-29 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2195-4-29**] 12:00 AM
   central line
 URINE CULTURE - At [**2195-4-29**] 12:00 AM
 BLOOD CULTURED - At [**2195-4-29**] 12:30 AM
   peripheral stick
 FEVER - 101.4
F - [**2195-4-29**] 12:00 AM
   -per GI stool studies ordered, prep for colonscopy in am, MRI pelvis to
   evaluate for fistula after colonscopy if stable
   -serial crits
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-4-28**] 11:00 AM
   Vancomycin - [**2195-4-28**] 09:06 PM
   Metronidazole - [**2195-4-29**] 12:31 AM
   Piperacillin - [**2195-4-29**] 06:21 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-4-28**] 08:54 PM
   Morphine Sulfate - [**2195-4-29**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-29**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.6
C (97.9
   HR: 97 (83 - 137) bpm
   BP: 127/85(92) {110/65(76) - 146/85(105)} mmHg
   RR: 13 (11 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  9,771 mL
                                                                    272 mL
   PO:
                                                                  4,000 mL
   TF:
   IVF:
                                                                  3,771 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  3,515 mL
                                                                  1,660 mL
   Urine:
                                                                  1,515 mL
                                                                    360 mL
   NG:
   Stool:
                                                                  2,000 mL
                                                                  1,300 mL
   Drains:
   Balance:
                                                                  6,256 mL
                                                                 -1,388 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
    2 L
   Physical Examination
   GENERAL: alert,  NAD
   HEENT: No scleral icterus. EOMI. MMM. Neck supple
   CARDIAC: RR. Normal S1, S2. No m/r/g.
   LUNGS: CTAB, no wheezes or rales
   ABDOMEN: obese, mild ttp, no rebound or guarding
   GU: 1 cm hole lateral to scrotum, no ttp, no surrounding induration
   EXTREMITIES: 2 + distal pulses
   NEURO: A&Ox3. Appropriate.
   Labs / Radiology
   505 K/uL
   9.8 g/dL
   151 mg/dL
   1.4 mg/dL
   26 mEq/L
   4.0 mEq/L
   27 mg/dL
   103 mEq/L
   137 mEq/L
   28.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2195-4-28**]  08:38 AM
                             [**2195-4-28**]  09:22 AM
                             [**2195-4-28**]  04:02 PM
                             [**2195-4-28**]  05:00 PM
                             [**2195-4-29**]  03:15 AM
   WBC
   9.4
   Hct
   30.7
   28.9
   28.6
   Plt
   505
   Cr
   1.4
   1.3
   1.4
   Glucose
   128
   216
   253
   151
   Other labs: PT / PTT / INR:15.3/28.7/1.3, Ca++:8.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   56 yom with hx of Diverticulitis s/p partial colectomy x 2, hx of
   multiple herniorraphy's, recent diagnosis of Crohn's disease who was
   transferred from OSH for BRBPR and abdominal pain, now with hypotension
   and tachycardia.
   .
   # BRBPR: Pt with significant bleeding causing hemodynamic instability.
   Hct drop 40-->33, slow trend down to 28.6 today, with continued blood
   in bowel movements. Most recently crits stable. Likely lower GI bleed
   given description of BRB with clots. Differential would include
   diverticulosis, AVM, infectious, or crohn
s flare. Also uses chronic
   NSAIDS so could represent a brisk UGI bleed.
   - maintain active T+S, units typed and crossed in blood bank
   - q6 hct, transfuse for hct<25
   - plan for colonscopy by GI today
   - protonix 40mg IV q12
   - send stool for culture, O+P, c diff
   .
   # Fever: Pt had fever to 102 at home and now with continued
   temperatures. No leukocytosis. Raises concern for infectious or
   inflammatory process-- especially given history of diverticulitis and
   Crohn's-- however no signs of abscess, colitis, or pericolic fat
   stranding on CT.
   - continue zosyn, d/c vanco and flagyl
   - MRI pelvis to evaluate for abscess/deep space infection/fistula
   tracking if stable following colonoscopy today
   - send blood cx, UA/urine cx
   - send stool for cx, O+P, c diff
   - cont to monitor fever curve
   - tylenol prn
   .
   # Hypotension/Sinus tachycardia: Likely secondary to hypovolemia in the
   context of bleeding, decreased PO intake, fever. Could also represent
   evolving sepsis given fevers, although [**Last Name (un) 2736**] likely given response to
   fluids.  BP and HR improved by this am, however continues to be febrile
   and to have bloody BMs.
   - IVF bolus prn
   - evaluation for source of bleeding/infection as above
   .
   # Elevated creatinine: Most likely represents prerenal acute renal
   failure in the setting of BRBPR, althought unknown baseline. Given
   mucomyst for renal protection after IV contrast. Cr stable following
   volume resuscitation.
   - Urine lytes
   - Continue to monitor creatinine
   .
   # DM2:
   - hold oral meds while in house
   - will give half of lantus dose while NPO
   - cover with humalog sliding scale
   .
   # FEN: NPO for now, IVF prn as above, replete lytes prn
   # PPX: PPI, pneumoboots, hold bowel regimen in setting of loose stools
   # Access: 2 PIV's, R IJ
   # Code status: FULL
   # Communication: with patient
   # Disposition: ICU for now, possible callout after colonscopy if stable
   ICU Care
   Nutrition: NPO for procedure
   Glycemic Control:  fixed and SSI
   Lines:
   Multi Lumen - [**2195-4-28**] 07:41 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: patient
   Code status: FULL
   Disposition:ICU

2195-04-29 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2195-4-29**] 12:00 AM
   central line
 URINE CULTURE - At [**2195-4-29**] 12:00 AM
 BLOOD CULTURED - At [**2195-4-29**] 12:30 AM
   peripheral stick
 FEVER - 101.4
F - [**2195-4-29**] 12:00 AM
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-4-28**] 11:00 AM
   Vancomycin - [**2195-4-28**] 09:06 PM
   Metronidazole - [**2195-4-29**] 12:31 AM
   Piperacillin - [**2195-4-29**] 06:21 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-4-28**] 08:54 PM
   Morphine Sulfate - [**2195-4-29**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-29**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.6
C (97.9
   HR: 97 (83 - 137) bpm
   BP: 127/85(92) {110/65(76) - 146/85(105)} mmHg
   RR: 13 (11 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  9,771 mL
                                                                    272 mL
   PO:
                                                                  4,000 mL
   TF:
   IVF:
                                                                  3,771 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  3,515 mL
                                                                  1,660 mL
   Urine:
                                                                  1,515 mL
                                                                    360 mL
   NG:
   Stool:
                                                                  2,000 mL
                                                                  1,300 mL
   Drains:
   Balance:
                                                                  6,256 mL
                                                                 -1,388 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
    2 L
   Physical Examination
   GENERAL: alert,  NAD
   HEENT: No scleral icterus. EOMI. MMM. Neck supple
   CARDIAC: RR. Normal S1, S2. No m/r/g.
   LUNGS: CTAB, no wheezes or rales
   ABDOMEN: obese, diffusely TTP, no rebound or guarding
   GU: 1 cm hole lateral to scrotum, no ttp, no surrounding induration
   EXTREMITIES: No c/c/e, 2+ dorsalis pedis/ posterior tibial pulses.
   NEURO: A&Ox3. Appropriate.
   Labs / Radiology
   505 K/uL
   9.8 g/dL
   151 mg/dL
   1.4 mg/dL
   26 mEq/L
   4.0 mEq/L
   27 mg/dL
   103 mEq/L
   137 mEq/L
   28.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2195-4-28**]  08:38 AM
                             [**2195-4-28**]  09:22 AM
                             [**2195-4-28**]  04:02 PM
                             [**2195-4-28**]  05:00 PM
                             [**2195-4-29**]  03:15 AM
   WBC
   9.4
   Hct
   30.7
   28.9
   28.6
   Plt
   505
   Cr
   1.4
   1.3
   1.4
   Glucose
   128
   216
   253
   151
   Other labs: PT / PTT / INR:15.3/28.7/1.3, Ca++:8.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   56 yom with hx of Diverticulitis s/p partial colectomy x 2, hx of
   multiple herniorraphy's, recent diagnosis of Crohn's disease who was
   transferred from OSH for BRBPR and abdominal pain, now with hypotension
   and tachycardia.
   .
   # BRBPR: Pt with significant bleeding causing hemodynamic instability.
   Hct drop 40-->33, slow trend down to 28.6 today, with continued blood
   in bowel movements. Most recently crits stable. Likely lower GI bleed
   given description of BRB with clots. Differential would include
   diverticulosis, AVM, infectious. Crohn's flare less likely to present
   like this. Also uses chronic NSAIDS so could represent a brisk UGI
   bleed.
   - maintain active T+S, units typed and crossed in blood bank
   - q6 hct, transfuse for hct<25
   - send stool for culture, O+P, c diff
   - plan for colonscopy by GI today
   - protonix 40mg IV q12
   - support with IVF as needed
   .
   # Fever: Pt had fever to 102 at home and now with continued
   temperatures. No leukocytosis. Raises concern for infectious or
   inflammatory process-- especially given history of diverticulitis and
   Crohn's-- however no signs of abscess, colitis, or pericolic fat
   stranding on CT.
   - continue vanco, zosyn, and flagyl
   - send blood cx, UA/urine cx
   - send stool for cx, O+P, c diff
   - MRI pelvis to evaluate for abscess/deep space infection/fistula
   tracking if stable following colonoscopy today
   - cont to monitor fever curve
   - tylenol prn
   .
   # Hypotension/Sinus tachycardia: Likely secondary to hypovolemia in the
   context of bleeding, decreased PO intake, fever. Could also represent
   evolving sepsis given fevers. BP improved with 2.5 L IVF. BP and HR
   improved by this am, however continues to be febrile and to have bloody
   BMs.
   - bolus 2L IVF now
   - evaluation for source of bleeding/infection as above
   .
   # Elevated creatinine: No history of chronic kidney disease. Most
   likely represents prerenal acute renal failure in the setting of BRBPR.
   Given mucomyst for renal protection after IV contrast. Cr stable
   following volume resuscitation.
   - Urine lytes
   - Continue to monitor creatinine
   .
   # DM2:
   - hold oral meds while in house
   - will give half of lantus dose while NPO
   - cover with humalog sliding scale
   .
   # FEN: NPO for now, IVF prn as above, replete lytes prn
   # PPX: PPI, pneumoboots, hold bowel regimen in setting of loose stools
   # Access: 2 PIV's, R IJ
   # Code status: FULL
   # Communication: with patient
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2195-4-28**] 07:41 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: patient
   Code status: FULL
   Disposition:ICU

2195-04-30 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2195-4-29**] 01:00 PM
 COLONOSCOPY - At [**2195-4-29**] 05:07 PM
 STOOL CULTURE - At [**2195-4-30**] 03:25 AM
   specimen sent for o&p and c. diff
   Colonoscopy: patient has "horrible" crohn's disease. Recommended MR of
   pelvis to eval for fistula/abscess. If wet read negative, start IV
   solumedrol 20mg q8h. They would consider remicade in house thereafter.
   Send stools x2 for C. diff given lots of exudates seen on scope.
   PM HCT stable
   Allergies:
   Azithromycin
   Unknown;
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-4-28**] 11:00 AM
   Metronidazole - [**2195-4-29**] 08:16 AM
   Vancomycin - [**2195-4-29**] 08:45 PM
   Piperacillin - [**2195-4-30**] 05:36 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2195-4-29**] 05:07 PM
   Fentanyl - [**2195-4-29**] 05:07 PM
   Morphine Sulfate - [**2195-4-30**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-30**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.3
C (97.4
   HR: 93 (85 - 101) bpm
   BP: 123/70(81) {109/53(66) - 144/86(98)} mmHg
   RR: 21 (8 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (4 - 13)mmHg
   Total In:
                                                                  1,218 mL
                                                                  1,153 mL
   PO:
                                                                     60 mL
   TF:
   IVF:
                                                                  1,158 mL
                                                                  1,153 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    490 mL
   Urine:
                                                                  1,330 mL
                                                                    490 mL
   NG:
   Stool:
                                                                  1,300 mL
   Drains:
   Balance:
                                                                 -1,413 mL
                                                                    663 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   GENERAL: alert,  NAD
   HEENT: No scleral icterus. EOMI. MMM. Neck supple
   CARDIAC: RR. Normal S1, S2. No m/r/g.
   LUNGS: CTAB, no wheezes or rales
   ABDOMEN: obese, mild ttp, no rebound or guarding
   GU: 1 cm hole lateral to scrotum, no ttp, no surrounding induration
   EXTREMITIES: 2 + distal pulses
   NEURO: A&Ox3. Appropriate.
   Labs / Radiology
   489 K/uL
   9.7 g/dL
   182 mg/dL
   1.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   24 mg/dL
   102 mEq/L
   137 mEq/L
   28.4 %
   9.1 K/uL
        [image002.jpg]
                             [**2195-4-28**]  08:38 AM
                             [**2195-4-28**]  09:22 AM
                             [**2195-4-28**]  04:02 PM
                             [**2195-4-28**]  05:00 PM
                             [**2195-4-29**]  03:15 AM
                             [**2195-4-29**]  09:18 AM
                             [**2195-4-29**]  04:53 PM
                             [**2195-4-30**]  12:00 AM
                             [**2195-4-30**]  03:20 AM
   WBC
   9.4
   9.1
   Hct
   30.7
   28.9
   28.6
   29.3
   30.6
   28.6
   28.4
   Plt
   505
   489
   Cr
   1.4
   1.3
   1.4
   1.7
   Glucose
   128
   216
   253
   151
   182
   Other labs: PT / PTT / INR:14.3/29.0/1.2, Ca++:8.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   56 yom with hx of Diverticulitis s/p partial colectomy x 2, hx of
   multiple herniorraphy's, recent diagnosis of Crohn's disease who was
   transferred from OSH for BRBPR and abdominal pain, now with hypotension
   and tachycardia.
   .
   # BRBPR: Pt with significant bleeding causing hemodynamic instability.
   Hct drop 40-->33, slow trend down, now stable at 28.4. Colonscopy
   showed ulceration, granularity, exudate and erythema in the cecum,
   ascending colon, transverse colon, descending colon and sigmoid colon
   compatible with Crohn's disease and diverticulosis of the sigmoid colon
   and descending colon.
   - MRI pelvis to evaluate for abscess, fistula
   - Prednisone 20 mg q 8 if MRI negative for abscess, may consider
   remicade
   - maintain active T+S, units typed and crossed in blood bank
   - q8 hct, transfuse for hct<25
   - send stool for culture, O+P, c diff
   .
   # Fever: Pt had fever to 102 at home and now with continued low grade
   temperatures. No leukocytosis. Raises concern for infectious or
   inflammatory process-- especially given history of diverticulitis and
   Crohn's-- however no signs of abscess, colitis, or pericolic fat
   stranding on CT.
   - continue zosyn, d/c vanco and flagyl
   - MRI pelvis to evaluate for abscess/deep space infection
   - f/u blood cx, UA/urine cx
   - f/u stool cx, c diff (neg x 1)
   - cont to monitor fever curve
   - tylenol prn
   .
   # Hypotension/Sinus tachycardia: Likely secondary to hypovolemia in the
   context of bleeding, decreased PO intake, fever. Could also represent
   evolving sepsis given fevers, although [**Last Name (un) 2736**] likely given response to
   fluids.  Improved.
   - IVF bolus prn
   - evaluation for source of bleeding/infection as above
   .
   # Elevated creatinine: Most likely represents prerenal acute renal
   failure in the setting of BRBPR, althought unknown baseline. Given
   mucomyst for renal protection after IV contrast. Cr increased to 1.7
   today.
   - Urine lytes show fena 0.74% suggesting prerenal
   - IVF
   - Continue to monitor creatinine
   .
   # DM2:
   - hold oral meds while in house
   - will give half of lantus dose while NPO
   - cover with humalog sliding scale
   .
   # FEN: NPO for now, IVF prn as above, replete lytes prn
   # PPX: PPI, pneumoboots, hold bowel regimen in setting of loose stools
   # Access: 2 PIV's, R IJ
   # Code status: FULL
   # Communication: with patient
   # Disposition: ICU for now, possible callout after colonscopy if stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2195-4-28**] 07:41 AM
   20 Gauge - [**2195-4-29**] 06:06 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:floor

2195-04-30 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2195-4-29**] 01:00 PM
 COLONOSCOPY - At [**2195-4-29**] 05:07 PM
 STOOL CULTURE - At [**2195-4-30**] 03:25 AM
   specimen sent for o&p and c. diff
   Colonoscopy: patient has "horrible" crohn's disease. Recommended MR of
   pelvis to eval for fistula/abscess. If wet read negative, start IV
   solumedrol 20mg q8h. They would consider remicade in house thereafter.
   Send stools x2 for C. diff given lots of exudates seen on scope.
   PM HCT stable
   Allergies:
   Azithromycin
   Unknown;
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-4-28**] 11:00 AM
   Metronidazole - [**2195-4-29**] 08:16 AM
   Vancomycin - [**2195-4-29**] 08:45 PM
   Piperacillin - [**2195-4-30**] 05:36 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2195-4-29**] 05:07 PM
   Fentanyl - [**2195-4-29**] 05:07 PM
   Morphine Sulfate - [**2195-4-30**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-30**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.3
C (97.4
   HR: 93 (85 - 101) bpm
   BP: 123/70(81) {109/53(66) - 144/86(98)} mmHg
   RR: 21 (8 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (4 - 13)mmHg
   Total In:
                                                                  1,218 mL
                                                                  1,153 mL
   PO:
                                                                     60 mL
   TF:
   IVF:
                                                                  1,158 mL
                                                                  1,153 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    490 mL
   Urine:
                                                                  1,330 mL
                                                                    490 mL
   NG:
   Stool:
                                                                  1,300 mL
   Drains:
   Balance:
                                                                 -1,413 mL
                                                                    663 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG:
   Physical Examination
   GENERAL: alert,  NAD
   HEENT: No scleral icterus. EOMI. MMM.
   CARDIAC: RR. Normal S1, S2. No m/r/g.
   LUNGS: CTAB, no wheezes or rales
   ABDOMEN: obese, no ttp, no rebound or guarding
   EXTREMITIES: 2 + distal pulses
   NEURO: A&Ox3. Appropriate.
   Labs / Radiology
   489 K/uL
   9.7 g/dL
   182 mg/dL
   1.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   24 mg/dL
   102 mEq/L
   137 mEq/L
   28.4 %
   9.1 K/uL
        [image002.jpg]
                             [**2195-4-28**]  08:38 AM
                             [**2195-4-28**]  09:22 AM
                             [**2195-4-28**]  04:02 PM
                             [**2195-4-28**]  05:00 PM
                             [**2195-4-29**]  03:15 AM
                             [**2195-4-29**]  09:18 AM
                             [**2195-4-29**]  04:53 PM
                             [**2195-4-30**]  12:00 AM
                             [**2195-4-30**]  03:20 AM
   WBC
   9.4
   9.1
   Hct
   30.7
   28.9
   28.6
   29.3
   30.6
   28.6
   28.4
   Plt
   505
   489
   Cr
   1.4
   1.3
   1.4
   1.7
   Glucose
   128
   216
   253
   151
   182
   Other labs: PT / PTT / INR:14.3/29.0/1.2, Ca++:8.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   56 yom with hx of Diverticulitis s/p partial colectomy x 2, hx of
   multiple herniorraphy's, recent diagnosis of Crohn's disease who was
   transferred from OSH for BRBPR and abdominal pain, now with hypotension
   and tachycardia.
   .
   # BRBPR: Pt with significant bleeding causing hemodynamic instability.
   Hct drop 40-->33, slow trend down, now stable at 28.4. Colonscopy
   showed ulceration, granularity, exudate and erythema in the cecum,
   ascending colon, transverse colon, descending colon and sigmoid colon
   compatible with Crohn's disease and diverticulosis of the sigmoid colon
   and descending colon.
   - MRI pelvis to evaluate for abscess, fistula
   - Prednisone 20 mg q 8 if MRI negative for abscess, may consider
   remicade
   - maintain active T+S, units typed and crossed in blood bank
   - [**Hospital1 **] hct, transfuse for hct<25
   - send stool for culture, O+P, c diff (neg x 1)
   .
   # Fever: Pt had fever to 102 at home and now with continued low grade
   temperatures. No leukocytosis. Raises concern for infectious or
   inflammatory process-- especially given history of diverticulitis and
   Crohn's-- however no signs of abscess, colitis, or pericolic fat
   stranding on CT. Initially on zosyn, vanco, and flagyl. Vanco and
   flagyl d/c
d [**4-29**].
   - continue zosyn
   - MRI pelvis to evaluate for abscess/deep space infection
   - f/u blood cx, UA/urine cx
   - f/u stool cx, c diff (neg x 1)
   - cont to monitor fever curve
   - tylenol prn
   .
   # Hypotension/Sinus tachycardia: Likely secondary to hypovolemia in the
   context of bleeding, decreased PO intake, fever. Now hemodynamically
   stable.
   - IVF bolus prn
   - evaluation for source of bleeding/infection as above
   .
   # Elevated creatinine: Cr 1.3-1.4 on admission. Unknown baseline.
   Increasd to 1.7 today. Most likely represents prerenal acute renal
   failure in the setting of BRBPR as well as ATN [**1-26**] dye load with CT
   abdomen. Given mucomyst for renal protection after IV contrast.
   - Urine lytes show fena 0.74% suggesting prerenal etiology
   - IVF today
   - Continue to monitor creatinine
   .
   # DM2:
   - hold oral meds while in house
   - will give half of lantus dose while NPO
   - cover with humalog sliding scale
   .
   # FEN: clears for now, IVF prn as above, replete lytes prn
   # PPX: PPI, pneumoboots, hold bowel regimen in setting of loose stools
   # Access: 2 PIV's, R IJ
   # Code status: FULL
   # Communication: with patient
   # Disposition: to floor today
   ICU Care
   Nutrition: clears
   Glycemic Control:  ISS, lantus
   Lines:
   Multi Lumen - [**2195-4-28**] 07:41 AM
   20 Gauge - [**2195-4-29**] 06:06 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: patient
   Code status: FULL
   Disposition:floor

2195-04-30 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2195-4-29**] 01:00 PM
 COLONOSCOPY - At [**2195-4-29**] 05:07 PM
 STOOL CULTURE - At [**2195-4-30**] 03:25 AM
   specimen sent for o&p and c. diff
   Colonoscopy: patient has "horrible" crohn's disease. Recommended MR of
   pelvis to eval for fistula/abscess. If wet read negative, start IV
   solumedrol 20mg q8h. They would consider remicade in house thereafter.
   Send stools x2 for C. diff given lots of exudates seen on scope.
   PM HCT stable
   I/Os: see below
   Allergies:
   Azithromycin
   Unknown;
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-4-28**] 11:00 AM
   Metronidazole - [**2195-4-29**] 08:16 AM
   Vancomycin - [**2195-4-29**] 08:45 PM
   Piperacillin - [**2195-4-30**] 05:36 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2195-4-29**] 05:07 PM
   Fentanyl - [**2195-4-29**] 05:07 PM
   Morphine Sulfate - [**2195-4-30**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-30**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.3
C (97.4
   HR: 93 (85 - 101) bpm
   BP: 123/70(81) {109/53(66) - 144/86(98)} mmHg
   RR: 21 (8 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (4 - 13)mmHg
   Total In:
                                                                  1,218 mL
                                                                  1,153 mL
   PO:
                                                                     60 mL
   TF:
   IVF:
                                                                  1,158 mL
                                                                  1,153 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    490 mL
   Urine:
                                                                  1,330 mL
                                                                    490 mL
   NG:
   Stool:
                                                                  1,300 mL
   Drains:
   Balance:
                                                                 -1,413 mL
                                                                    663 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   489 K/uL
   9.7 g/dL
   182 mg/dL
   1.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   24 mg/dL
   102 mEq/L
   137 mEq/L
   28.4 %
   9.1 K/uL
        [image002.jpg]
                             [**2195-4-28**]  08:38 AM
                             [**2195-4-28**]  09:22 AM
                             [**2195-4-28**]  04:02 PM
                             [**2195-4-28**]  05:00 PM
                             [**2195-4-29**]  03:15 AM
                             [**2195-4-29**]  09:18 AM
                             [**2195-4-29**]  04:53 PM
                             [**2195-4-30**]  12:00 AM
                             [**2195-4-30**]  03:20 AM
   WBC
   9.4
   9.1
   Hct
   30.7
   28.9
   28.6
   29.3
   30.6
   28.6
   28.4
   Plt
   505
   489
   Cr
   1.4
   1.3
   1.4
   1.7
   Glucose
   128
   216
   253
   151
   182
   Other labs: PT / PTT / INR:14.3/29.0/1.2, Ca++:8.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 DIABETES MELLITUS (DM), TYPE I
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2195-4-28**] 07:41 AM
   20 Gauge - [**2195-4-29**] 06:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2195-04-30 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2195-4-29**] 01:00 PM
 COLONOSCOPY - At [**2195-4-29**] 05:07 PM
 STOOL CULTURE - At [**2195-4-30**] 03:25 AM
   specimen sent for o&p and c. diff
   Colonoscopy: patient has "horrible" crohn's disease. Recommended MR of
   pelvis to eval for fistula/abscess. If wet read negative, start IV
   solumedrol 20mg q8h. They would consider remicade in house thereafter.
   Send stools x2 for C. diff given lots of exudates seen on scope.
   PM HCT stable
   I/Os: see below
   Allergies:
   Azithromycin
   Unknown;
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-4-28**] 11:00 AM
   Metronidazole - [**2195-4-29**] 08:16 AM
   Vancomycin - [**2195-4-29**] 08:45 PM
   Piperacillin - [**2195-4-30**] 05:36 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2195-4-29**] 05:07 PM
   Fentanyl - [**2195-4-29**] 05:07 PM
   Morphine Sulfate - [**2195-4-30**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-30**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.3
C (97.4
   HR: 93 (85 - 101) bpm
   BP: 123/70(81) {109/53(66) - 144/86(98)} mmHg
   RR: 21 (8 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (4 - 13)mmHg
   Total In:
                                                                  1,218 mL
                                                                  1,153 mL
   PO:
                                                                     60 mL
   TF:
   IVF:
                                                                  1,158 mL
                                                                  1,153 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    490 mL
   Urine:
                                                                  1,330 mL
                                                                    490 mL
   NG:
   Stool:
                                                                  1,300 mL
   Drains:
   Balance:
                                                                 -1,413 mL
                                                                    663 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   GENERAL: alert,  NAD
   HEENT: No scleral icterus. EOMI. MMM. Neck supple
   CARDIAC: RR. Normal S1, S2. No m/r/g.
   LUNGS: CTAB, no wheezes or rales
   ABDOMEN: obese, mild ttp, no rebound or guarding
   GU: 1 cm hole lateral to scrotum, no ttp, no surrounding induration
   EXTREMITIES: 2 + distal pulses
   NEURO: A&Ox3. Appropriate.
   Labs / Radiology
   489 K/uL
   9.7 g/dL
   182 mg/dL
   1.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   24 mg/dL
   102 mEq/L
   137 mEq/L
   28.4 %
   9.1 K/uL
        [image002.jpg]
                             [**2195-4-28**]  08:38 AM
                             [**2195-4-28**]  09:22 AM
                             [**2195-4-28**]  04:02 PM
                             [**2195-4-28**]  05:00 PM
                             [**2195-4-29**]  03:15 AM
                             [**2195-4-29**]  09:18 AM
                             [**2195-4-29**]  04:53 PM
                             [**2195-4-30**]  12:00 AM
                             [**2195-4-30**]  03:20 AM
   WBC
   9.4
   9.1
   Hct
   30.7
   28.9
   28.6
   29.3
   30.6
   28.6
   28.4
   Plt
   505
   489
   Cr
   1.4
   1.3
   1.4
   1.7
   Glucose
   128
   216
   253
   151
   182
   Other labs: PT / PTT / INR:14.3/29.0/1.2, Ca++:8.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   56 yom with hx of Diverticulitis s/p partial colectomy x 2, hx of
   multiple herniorraphy's, recent diagnosis of Crohn's disease who was
   transferred from OSH for BRBPR and abdominal pain, now with hypotension
   and tachycardia.
   .
   # BRBPR: Pt with significant bleeding causing hemodynamic instability.
   Hct drop 40-->33, slow trend down to 28.6 today, with continued blood
   in bowel movements. Most recently crits stable. Likely lower GI bleed
   given description of BRB with clots. Differential would include
   diverticulosis, AVM, infectious, or crohn
s flare. Also uses chronic
   NSAIDS so could represent a brisk UGI bleed.
   - maintain active T+S, units typed and crossed in blood bank
   - q6 hct, transfuse for hct<25
   - plan for colonscopy by GI today
   - protonix 40mg IV q12
   - send stool for culture, O+P, c diff
   .
   # Fever: Pt had fever to 102 at home and now with continued
   temperatures. No leukocytosis. Raises concern for infectious or
   inflammatory process-- especially given history of diverticulitis and
   Crohn's-- however no signs of abscess, colitis, or pericolic fat
   stranding on CT.
   - continue zosyn, d/c vanco and flagyl
   - MRI pelvis to evaluate for abscess/deep space infection/fistula
   tracking if stable following colonoscopy today
   - send blood cx, UA/urine cx
   - send stool for cx, O+P, c diff
   - cont to monitor fever curve
   - tylenol prn
   .
   # Hypotension/Sinus tachycardia: Likely secondary to hypovolemia in the
   context of bleeding, decreased PO intake, fever. Could also represent
   evolving sepsis given fevers, although [**Last Name (un) 2736**] likely given response to
   fluids.  BP and HR improved by this am, however continues to be febrile
   and to have bloody BMs.
   - IVF bolus prn
   - evaluation for source of bleeding/infection as above
   .
   # Elevated creatinine: Most likely represents prerenal acute renal
   failure in the setting of BRBPR, althought unknown baseline. Given
   mucomyst for renal protection after IV contrast. Cr stable following
   volume resuscitation.
   - Urine lytes
   - Continue to monitor creatinine
   .
   # DM2:
   - hold oral meds while in house
   - will give half of lantus dose while NPO
   - cover with humalog sliding scale
   .
   # FEN: NPO for now, IVF prn as above, replete lytes prn
   # PPX: PPI, pneumoboots, hold bowel regimen in setting of loose stools
   # Access: 2 PIV's, R IJ
   # Code status: FULL
   # Communication: with patient
   # Disposition: ICU for now, possible callout after colonscopy if stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2195-4-28**] 07:41 AM
   20 Gauge - [**2195-4-29**] 06:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: